US09388173B2
1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-((4′-methoxy-[1,1′-biphenyl]-3-yl)oxy)propan-2-ol
To a mixture of 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)propan-2-ol (250 mg, 0.61 mmol) in Dioxane (3 mL) was added 4-bromoanisole (115 mg, 0.61 mmol), 2N K2CO3 (1 mL, 2 mmol) and PdCl2(dppf)2 (20 mg, 0.025 mmol). The reaction mixture was heated at 120° C. under microwave heating conditions for 30 minutes before concentrated to remove the solvent. The residue was dissolved in ethyl acetate, washed with water with the separated organic layer dried and concentrated to yield a crude product which was purified by prep-HPLC separation to give title compound (116 mg, 49%). 1H NMR (400 MHz, MeOD): δ 7.55-7.51 (m, 2H), 7.35-7.27 (m, 4H), 7.24-7.15 (m, 3H), 7.01-6.97 (m, 2H), 6.92-6.89 (m, 1H), 4.66 (brs, 1H), 4.56-4.51 (m, 2H), 4.16-4.07 (m, 2H), 3.92 (brs, 1H), 3.83 (s, 3H), 3.58-3.48 (m, 3H), 3.32-3.22 (m, 2H), ppm; ESI-MS (m/z): 390.2 [M+1]+.

reactant | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)propan-2-ol | 0.61 mmol, 250 mg | C1N(CCC2=CC=CC=C12)CC(COC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)O | C24H32BNO4
reactant | 4-bromoanisole | 0.61 mmol, 115 mg | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | K2CO3 | 2 mmol, 2N, 1 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | Dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf)2 | 0.025 mmol, 20 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-((4′-methoxy-[1,1′-biphenyl]-3-yl)oxy)propan-2-ol | 116 mg, 49% | C1N(CCC2=CC=CC=C12)CC(COC=1C=C(C=CC1)C1=CC=C(C=C1)OC)O | C25H27NO3
